Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Latex / nut
 
Attending: ___.
 
Chief Complaint:
Symptomatic fibroid uterus
 
Major Surgical or Invasive Procedure:
Robotic Assisted total laparoscopic hysterectomy, bilateral 
salpingectomy, cystoscopy

 
History of Present Illness:
___ G5, P1 with long history of evaluation for fibroids 
and menorrhagia who had undergone two failed trials of Mirena 
IUD for menorrhagia secondary to fibroid uterus. She experienced 
significant menorrhagia in recent
years, although she does not have anemia.  She has significant 
pelvic pain and pressure urinary frequency and urgency all 
likely related to her fibroid burden.  She had on ultrasound in 
___ that notes a uterus measuring 10.2 x 4.5 x 7.5 cm with 
a normal endometrium and multiple fibroids, normal appearance of 
the ovaries.  In comparison, a recent ultrasound for abdominal
pain in ___ notes a further enlarged uterus measuring 
11.9 x 7.1 x 7.4 cm with a homogenous endometrium measuring 4 
mm, multiple fibroids in the uterus measuring 3 cm and 6.5 cm 
for the multiple fibroids.  Ovaries are bilaterally normal.  
There is no evidence of an IUD on this ultrasound. 
 
Past Medical History:
Past Obstetrical History:  G5, P1 with a vaginal delivery x1 and
five therapeutic abortions, one medical and four D&E.

Past Gynecological History:  Menarche at the age of ___.  She has
regular menses every 28 days with a cycle lasting up to 10 days
with extremely heavy bleeding and pain with full bladder.  She
has a history of HSV-2, history of chlamydia in ___ and in ___
was treated medically as well as a history of gonorrhea.

Past Medical History:  Significant for depression, epilepsy as a
child, but her last seizure was at the age of ___.  She is on no
medications for same.  Hypercholesterolemia and hypertension on
lisinopril.

Past Surgical History:  Breast reduction.

 
Social History:
___
Family History:
She has a great grandmother on her maternal side and an aunt on 
her father's side who both had breast cancer.  Her aunt was in 
her ___ or ___ and passed away.  She has no history of ovarian, 
uterine cancers in her family.  One aunt on her mother's side 
had cervical cancer.

 
Physical Exam:
Physical Examination on Admission
General: well appearing female in no apparent distress, alert 
and
oriented
HEENT: normocephalic, atraumatic, anicteric sclera
Neck: supple, FROM, no thyromegaly or nodules
Lymphatic: no palpable neck lymphadenopathy
Back: no CVA tenderness
Lungs: clear to auscultation bilaterally, good inspiratory
effort, no wheezing/rales/rhonchi
CV: regular rate and rhythm, no murmurs/rubs/gallops
Abd: obese soft, +bowel sounds, non-tender, non-distended, no 
R/G
Extremities: no clubbing/cyanosis/edema
Pelvic:
  Skin- grossly normal external female genitalia
  SSE- nl cervix at ML, no unusual blding/lesions/discharge
       normal vaginal vault
  BME- limited by obesity, fibroid uterus, no adnexal masses or 
tenderness
  Pelvic MS ___- no obturator or levator muscle tenderness
Rectovaginal Exam: deferred

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing a Robotic Assisted Total laparoscopic 
hysterectomy, bilateral salpingectomy and cystoscopy for fibroid 
uterus. Please see the operative report for full details.  
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid/toradol.  
On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to 
percocet/ibuprofen. 
By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
Amlodipine 5mg Daily
 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*1
3. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth Every 6 hours Disp 
#*60 Tablet Refills:*1
4. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
Do not exceed 4000mg acetaminophen in 24 hours 
RX *oxycodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
Every 4 hours Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.    
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.  
* You may walk up and down stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 
 
Followup Instructions:
___